### PR TITLE
feat(ErdosProblems): 254

### LINKED ISSUE #444: Erdős Problem 254
### What is the conjecture
    
https://www.erdosproblems.com/254

  Let $A\subseteq \mathbb{N}$ be such that 
$$\lvert A\cap [1,2x]\rvert -\lvert A\cap [1,x]\rvert \to \infty\textrm{ as }x\to \infty$$
and
$$\sum_{n\in A} \{ \theta n\}=\infty$$
for every $\theta\in (0,1)$, where $\{x\}$ is the distance of $x$ from the nearest integer. Then every sufficiently large integer is the sum of distinct elements of $A$.

Status: open

### Choose either option
- [ ] I plan on working on this conjecture
- [x] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by danielchin**
Closes #444 

Formalizes Erdos Problem 254: https://www.erdosproblems.com/254

Assisted by Gemini/Antigravity

### CODE REVIEW

File: FormalConjectures/ErdosProblems/254.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+\infty\textrm{ as }x\to \infty$ and $\sum_{n\in A} \{ \theta n\}=\infty$ for every $\theta\in
+(0,1)$, where $\{x\}$ is the distance of $x$ from the nearest integer. Then every sufficiently large
+integer is the sum of distinct elements of $A$.
+-/
+@[category research open, AMS 5]
+theorem erdos_254 :
+    ∀ᵉ (A : Set ℕ),
+      (Tendsto (fun x : ℕ ↦ (A ∩ Icc 1 (2 * x)).ncard - (A ∩ Icc 1 x).ncard) atTop atTop) ∧
+      (∀ θ : ℝ, 0 < θ → θ < 1 → ¬ Summable (fun n : A ↦ nearestIntDist (θ * (n : ℝ)))) →
+      ∀ᶠ m in atTop, m ∈ sumsOfDistinct A := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/254.lean]:
```suggestion
       ∀ᶠ m in atTop, IsSumsOfDistinct A m := by
```

File: FormalConjectures/ErdosProblems/254.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+-\lvert A\cap [1,x]\rvert}{\log\log x}=\infty$ and $\sum_{n\in A} \{ \theta n\}^2=\infty$ for every
+$\theta\in (0,1)$.
+-/
+@[category research solved, AMS 5]
+theorem erdos_254.variants.cassels :
+    ∀ᵉ (A : Set ℕ),
+      (Tendsto (fun x : ℕ ↦ (((A ∩ Icc 1 (2 * x)).ncard : ℝ) -
+        ((A ∩ Icc 1 x).ncard : ℝ)) / Real.log (Real.log x)) atTop atTop) ∧
+      (∀ θ : ℝ, 0 < θ → θ < 1 → ¬ Summable (fun n : A ↦ (nearestIntDist (θ * (n : ℝ)))^2)) →
+      ∀ᶠ m in atTop, m ∈ sumsOfDistinct A := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/254.lean]:
```suggestion
       ∀ᶠ m in atTop, IsSumsOfDistinct A m := by
```

File: FormalConjectures/ErdosProblems/254.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+Let $A\subseteq \mathbb{N}$ be such that $\lvert A\cap [1,2x]\rvert -\lvert A\cap [1,x]\rvert \to
+\infty\textrm{ as }x\to \infty$ and $\sum_{n\in A} \{ \theta n\}=\infty$ for every $\theta\in
+(0,1)$, where $\{x\}$ is the distance of $x$ from the nearest integer. Then every sufficiently large
+integer is the sum of distinct elements of $A$.
+-/
+@[category research open, AMS 5]
+theorem erdos_254 :
+    ∀ᵉ (A : Set ℕ),
+      (Tendsto (fun x : ℕ ↦ (A ∩ Icc 1 (2 * x)).ncard - (A ∩ Icc 1 x).ncard) atTop atTop) ∧
+      (∀ θ : ℝ, 0 < θ → θ < 1 → ¬ Summable (fun n : A ↦ nearestIntDist (θ * (n : ℝ)))) →
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/254.lean]:
```suggestion
    ∀ᵉ (A : Set ℕ)
      (h_card : Tendsto (fun x : ℕ ↦ (A ∩ Icc 1 (2 * x)).ncard - (A ∩ Icc 1 x).ncard) atTop atTop)
      (h_sum : ∀ θ : ℝ, 0 < θ → θ < 1 → ¬ Summable (fun n : A ↦ nearestIntDist (θ * (n : ℝ)))),

```

Either change `∀ᵉ` to `∀` or actually use it like suggested here.

Comment (mo271) [reply FormalConjectures/ErdosProblems/254.lean]: same for the variant below.

**Review by mo271 — COMMENTED** [review]
Thanks, looks good, just some minor comments

File: FormalConjectures/ErdosProblems/254.lean (hunk 1 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/254.lean]: Done.

File: FormalConjectures/ErdosProblems/254.lean (hunk 2 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/254.lean]: Done.

File: FormalConjectures/ErdosProblems/254.lean (hunk 3 above)
Comment (danielchin) [reply FormalConjectures/ErdosProblems/254.lean]: Done.

**Comment by danielchin** [comment]
The rebase was a bit messier than expected. I'm also not entirely sure why the CLA check is failing either.

Worse case, I can just spin up a new PR from head.
